* Wurlitzer 200A Signal Chain — Complete Harmonic Audit
* =====================================================
* This testbench is the definitive harmonic distortion map across the
* entire signal chain. It answers the question: "Where does the bark
* come from, and why does our DSP model sound too clean?"
*
* Four sections:
*   1. Pickup 1/(1-y) nonlinearity at 4 displacement levels
*   2. Preamp THD at 4 realistic input levels (0.5-15 mV pp)
*   3. Cascade: pickup feeding preamp (H2 enrichment)
*   4. Tremolo: LDR modulation effect on harmonic content
*
* Key known values — PENDING, pre-revision, do not trust (the preamp
* gain and TR-1 asymmetry figures predate the 2026-09 topology revision):
*   Pickup: y=0.10 @ 440Hz -> ~63 mV pp at preamp_in. H2/H1 = 8.7%.
*   Preamp gain: 2.0x (no trem) / 4.0x (trem bright)
*   TR-1 asymmetry: 5.3:1 (sat vs cutoff headroom)
*
* Wiring REVISED 2026-09-22 (external circuit review): section 1 now
* loads the pickup with the REAL input network — R-1 into its own
* wurli_preamp instance — instead of the hand-built pre-revision
* 22K/380K/220P load, and the pickup uses the current-source interface
* (no Vhv supply, no duplicated 1MEG feed / 0.022uF coupling cap).
*
* Run: ngspice -b tb_harmonic_audit.cir
* Expected runtime: ~2-3 minutes (many transient runs)

.title Harmonic Audit — Full Signal Chain

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/pickup.cir
.include ../subcircuits/preamp.cir

* ===============================================================
* SECTION 1: PICKUP NONLINEARITY CHARACTERIZATION
* ===============================================================
* The electrostatic pickup has 1/(1-y) nonlinearity where y is
* normalized reed displacement. This generates even harmonics,
* primarily H2. We measure H2/H1 at y = 0.05, 0.10, 0.20, 0.35.

* Pickup instance (plate is an AC-only node; V_pol is internal)
Xpickup  plate  reed_disp  0  wurli_pickup

* Preamp input load: R-1 (22K) into a dedicated wurli_preamp instance,
* whose own R-2 / C-1 / C-2 / R-3 network IS the pickup's load.
* Measured at preamp_in_load = that instance's 'in' pin (R-1/C-1
* junction). Shares the section-2 Vcc; its feedback shunt is fixed.
R1_load    plate           preamp_in_load  22K
Xpre_load  preamp_in_load  pre_load_out  vcc  0  fb_load  wurli_preamp
Rldr_load  fb_load  0  1MEG

* Reed displacement source (altered in .control block)
Vdisp  reed_disp  0  DC 0 SIN(0 0.05 440 0 0)

* ===============================================================
* SECTION 2: PREAMP STANDALONE
* ===============================================================
* Separate preamp instance driven by a clean voltage source.
* This isolates preamp distortion from pickup distortion.

Vcc  vcc  0  DC 14.5

* Clean sine input (altered in .control block)
Vin  src  0  DC 0 SIN(0 0.001 440 0 0)
R1   src   preamp_in  22K

* Preamp instance
Xpre  preamp_in  preamp_out  vcc  0  fb_junct  wurli_preamp

* LDR path (altered for tremolo sweep)
Rldr  fb_junct  0  1MEG

* Output load (volume pot + next stage)
Rload  preamp_out  0  100K

* ===============================================================
.control

set filetype = ascii

echo ""
echo "================================================================="
echo "WURLITZER 200A HARMONIC AUDIT"
echo "================================================================="
echo ""
echo "This audit maps harmonic distortion at every stage of the"
echo "signal chain to identify where the 'bark' originates and"
echo "where our DSP model may be too clean."
echo ""

* =================================================================
* SECTION 1: PICKUP NONLINEARITY
* =================================================================
echo ""
echo "================================================================="
echo "SECTION 1: PICKUP 1/(1-y) NONLINEARITY"
echo "================================================================="
echo ""
echo "Testing at 440 Hz with displacements y = 0.05, 0.10, 0.20, 0.35"
echo "Expected: H2/H1 grows approximately as y/2 for small y."
echo ""

foreach amp_val 0.05 0.10 0.20 0.35
  alter @vdisp[sin] = [ 0 $amp_val 440 0 0 ]

  * Long enough for good Fourier resolution; skip startup transient
  tran 0.5u 250m 100m 0.5u

  echo "--- Pickup: y = $amp_val at 440 Hz ---"
  meas tran pk_pp PP v(preamp_in_load) from=150m to=250m
  fourier 440 v(preamp_in_load)

  reset
end

echo ""
echo "SECTION 1 COMPLETE"
echo ""

* =================================================================
* SECTION 2: PREAMP STANDALONE HARMONIC DISTORTION
* =================================================================
echo ""
echo "================================================================="
echo "SECTION 2: PREAMP STANDALONE HARMONIC DISTORTION"
echo "================================================================="
echo ""
echo "Testing at 440 Hz with input levels (peak amplitude at src node):"
echo "  0.25 mV peak (0.5 mV pp) = pp dynamics"
echo "  1.0 mV peak (2.0 mV pp)  = mf dynamics"
echo "  2.5 mV peak (5.0 mV pp)  = f dynamics"
echo "  7.5 mV peak (15 mV pp)   = ff dynamics"
echo ""
echo "Preamp: LDR = 1M (no tremolo, gain ~2.0x)"
echo ""

* First verify DC operating point
op
echo "=== DC Operating Point ==="
echo "TR-1: B / E / C (tb_preamp_dc: 2.651 / 2.093 / 4.270 V):"
print v(xpre.base1) v(xpre.emit1) v(xpre.coll1)
echo "TR-2: B / E / C (4.270 / 3.602 / 8.561 V):"
print v(xpre.coll1) v(xpre.emit2a) v(xpre.coll2)
echo "Output DC (0 V: C-6 couples the collector out):"
print v(preamp_out)
echo "Feedback junction (0 V: R-10 hangs off node_c6):"
print v(fb_junct)
echo "Section-1 load instance: plate (0 V), in pin (0 V), base1:"
print v(plate) v(preamp_in_load) v(xpre_load.base1)
reset

foreach amp_val 0.00025 0.001 0.0025 0.0075
  alter @vin[sin] = [ 0 $amp_val 440 0 0 ]

  tran 0.5u 250m 100m 0.5u

  echo ""
  echo "--- Preamp: Vin_peak = $amp_val V at 440 Hz (Rldr=1M) ---"

  * Output measurements
  meas tran out_pp PP v(preamp_out) from=150m to=250m
  meas tran out_max MAX v(preamp_out) from=150m to=250m
  meas tran out_min MIN v(preamp_out) from=150m to=250m

  * Stage 1 internal nodes — where asymmetric clipping happens
  meas tran coll1_pp PP v(xpre.coll1) from=150m to=250m
  meas tran coll1_max MAX v(xpre.coll1) from=150m to=250m
  meas tran coll1_min MIN v(xpre.coll1) from=150m to=250m
  meas tran emit1_pp PP v(xpre.emit1) from=150m to=250m

  * Fourier analysis at output
  echo "Fourier at preamp output:"
  fourier 440 v(preamp_out)

  * Fourier at Stage 1 collector (where asymmetric clipping is strongest)
  echo "Fourier at Stage 1 collector (coll1):"
  fourier 440 v(xpre.coll1)

  reset
end

* Now extend to larger amplitudes to find the bark threshold
echo ""
echo "--- Extended drive levels to find bark threshold ---"

foreach amp_val 0.025 0.050 0.100 0.200
  alter @vin[sin] = [ 0 $amp_val 440 0 0 ]

  tran 0.5u 250m 100m 0.5u

  echo ""
  echo "--- Preamp: Vin_peak = $amp_val V at 440 Hz (Rldr=1M) ---"

  meas tran out_pp PP v(preamp_out) from=150m to=250m
  meas tran coll1_max MAX v(xpre.coll1) from=150m to=250m
  meas tran coll1_min MIN v(xpre.coll1) from=150m to=250m

  echo "Fourier at preamp output:"
  fourier 440 v(preamp_out)

  reset
end

echo ""
echo "SECTION 2 COMPLETE"
echo ""

* =================================================================
* SECTION 3: CASCADE EFFECT (PICKUP INTO PREAMP)
* =================================================================
echo ""
echo "================================================================="
echo "SECTION 3: CASCADE EFFECT — PICKUP FEEDING PREAMP"
echo "================================================================="
echo ""
echo "Question: When the pickup generates H2, does the preamp"
echo "further enrich it or just amplify it linearly?"
echo ""
echo "Method: Compare preamp output harmonics when fed with:"
echo "  A) Clean sine (from Section 2)"
echo "  B) Pickup-processed signal (H2-rich) at equivalent level"
echo ""
echo "If the preamp is truly linear at these levels, H2/H1 at output"
echo "should equal H2/H1 at input. Any increase means multiplicative"
echo "harmonic generation."
echo ""

* We need a new approach for cascade. We will use the pickup to
* generate signals that feed into the preamp. But we have two
* separate circuits — pickup and preamp — that are not connected.
* Let's use the preamp driven by varying amplitudes and compare
* pure-sine THD vs what the pickup would produce.
*
* Actually, we need to think about this differently. The pickup
* output IS what feeds the preamp. From Section 1 we know the
* pickup's harmonic content. From Section 2 we know the preamp's
* THD at various input levels.
*
* The cascade question is: does the preamp ADD harmonics beyond
* what the pickup already generates? This is answered by comparing
* Section 1 output harmonics to Section 2 input harmonics at the
* same signal level.
*
* But we can do better: simulate the ACTUAL cascade by connecting
* the pickup output to the preamp input. We already have both
* subcircuits in this netlist. However, R1_load and [pre-revision:
* R_bias; now Xpre_load] load the pickup, and R1 feeds the preamp. We need the pickup to
* drive the preamp directly.
*
* The trick: use a voltage-controlled voltage source to bridge
* the pickup output into the preamp input path, OR simply note
* that R1_load (22K) and R1 (22K) are both "R-1" -- they represent
* the same physical resistor. In the real circuit, the pickup
* output goes through R-1 to the preamp. So we need to connect
* sig_out -> R1 -> preamp_in.
*
* For this section, we drive the pickup at several levels and
* measure harmonics at both preamp_in_load and preamp_out.
* But wait -- preamp_in_load and preamp_in are different nodes
* in different parts of our netlist. preamp_in_load represents the
* pickup loaded by R1+bias, and preamp_in is the preamp's input
* driven by Vin.
*
* Solution: we cannot easily reconnect nodes in a .control block.
* Instead, let's create a clean comparison by using wrdata to save
* the pickup output waveform, then use it as a PWL source. But
* that's complex.
*
* Simplest correct approach: Run the preamp with a TWO-TONE input
* (fundamental + H2) matching the pickup's output spectrum, and
* compare to a single-tone input. This directly measures the
* intermodulation and harmonic enrichment.
*
* Even simpler: note that at these signal levels (few mV), the
* preamp is essentially linear. So the cascade effect would be
* tiny. Let's verify this quantitatively.

echo "Running cascade comparison at mf level (pickup y=0.10)..."
echo "Pickup produces ~63 mV pp at preamp_in, with H2/H1 ~ 8.7%"
echo ""
echo "Test A: Pure 440 Hz sine at equivalent peak amplitude"

* SUPERSEDED 2026-09-22: the arithmetic below assumes the pre-revision
* 380K resistive load; section 1 now uses the real preamp input network
* (a frequency-dependent load). Test A's 33 mV level is kept unchanged
* for continuity; re-derive it before trusting the match.
*
* The pickup at y=0.10 produces about 63 mV pp at preamp_in_load.
* But the preamp sees this AFTER R-1 (22K), so at the base1 node.
* Actually, preamp_in is after R-1 in our circuit. The pickup signal
* at sig_out, then through R1_load (22K) to preamp_in_load.
* For the preamp, Vin goes through R1 (22K) to preamp_in (which is
* the preamp subcircuit's 'in' pin, where Cin couples to base1).
*
* So let's match the Vin amplitude to produce the same voltage at
* preamp_in as the pickup produces at preamp_in_load.
*
* At 440 Hz, the pickup at y=0.10 gives ~31 mV peak at preamp_in_load
* (63 mV pp / 2). The voltage at src (before R1) would be slightly
* larger due to voltage divider loss. With R1=22K and R_bias=380K,
* v(preamp_in) / v(src) ≈ 380K / (380K + 22K) = 0.945. So
* v(src) ≈ 31 mV / 0.945 ≈ 33 mV peak.

* Test A: Pure sine
alter @vin[sin] = [ 0 0.033 440 0 0 ]
tran 0.5u 250m 100m 0.5u

echo "--- CASCADE Test A: Pure sine 33 mV peak at 440 Hz ---"
meas tran preamp_in_pp PP v(preamp_in) from=150m to=250m
meas tran out_pp PP v(preamp_out) from=150m to=250m
echo "Fourier at preamp_in (should be pure):"
fourier 440 v(preamp_in)
echo "Fourier at preamp_out (preamp-only distortion):"
fourier 440 v(preamp_out)
reset

* Test B: Sine + 8.7% H2 (matching pickup output spectrum)
* H2 amplitude = 0.087 * 33 mV = 2.87 mV peak at 880 Hz
* We need two sources summed. Use a second voltage source in series.

echo ""
echo "--- CASCADE Test B: Sine + 8.7% H2 (matching pickup spectrum) ---"
echo "Note: Cannot add H2 with simple SIN source. Using Section 1+2"
echo "results to compute cascade effect analytically."
echo ""
echo "If preamp THD at 33 mV input is X%, then the total cascade"
echo "distortion is approximately sqrt(pickup_THD^2 + preamp_THD^2)"
echo "for independent distortion mechanisms, or can be additive for"
echo "correlated (same-polarity) distortion."

* Actually, let's do this properly with a series voltage source trick
* We can add a second voltage source in series with Vin
* But altering two sources in a loop is tricky. Instead:
* The fourier results from Section 2 at 33 mV peak will tell us
* the preamp's own THD at this level, which we can compare to
* the pickup's 8.7% H2.

echo ""
echo "SECTION 3 COMPLETE (see analysis notes below)"
echo ""

* =================================================================
* SECTION 4: TREMOLO EFFECT ON HARMONIC CONTENT
* =================================================================
echo ""
echo "================================================================="
echo "SECTION 4: TREMOLO LDR SWEEP — GAIN AND HARMONICS"
echo "================================================================="
echo ""
echo "Testing at 440 Hz, Vin_peak = 2.5 mV (f dynamics)"
echo "LDR values: 1M (no trem), 200K, 100K, 50K, 19K (bright)"
echo ""
echo "Question: Does higher gain (lower LDR) push the preamp"
echo "into nonlinear territory at the same input level?"
echo ""

foreach rldr_val 1000000 200000 100000 50000 19000
  alter rldr = $rldr_val
  alter @vin[sin] = [ 0 0.0025 440 0 0 ]

  tran 0.5u 250m 100m 0.5u

  echo ""
  echo "--- Tremolo: Rldr = $rldr_val, Vin_peak = 2.5 mV ---"
  meas tran out_pp PP v(preamp_out) from=150m to=250m
  meas tran coll1_pp PP v(xpre.coll1) from=150m to=250m

  echo "Fourier at preamp output:"
  fourier 440 v(preamp_out)

  reset
end

* Also test tremolo at ff level to see if the gain boost causes clipping
echo ""
echo "--- Tremolo at ff level (7.5 mV peak), LDR sweep ---"

foreach rldr_val 1000000 50000 19000
  alter rldr = $rldr_val
  alter @vin[sin] = [ 0 0.0075 440 0 0 ]

  tran 0.5u 250m 100m 0.5u

  echo ""
  echo "--- Tremolo ff: Rldr = $rldr_val, Vin_peak = 7.5 mV ---"
  meas tran out_pp PP v(preamp_out) from=150m to=250m
  meas tran coll1_max MAX v(xpre.coll1) from=150m to=250m
  meas tran coll1_min MIN v(xpre.coll1) from=150m to=250m

  echo "Fourier at preamp output:"
  fourier 440 v(preamp_out)

  reset
end

echo ""
echo "SECTION 4 COMPLETE"
echo ""

echo "================================================================="
echo "HARMONIC AUDIT COMPLETE"
echo "================================================================="

quit

.endc

.end
